US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (100 mg, 0.43 mmol) was coupled to 4-fluoro-3-(3-fluoropyridin-2-yl)phenylboronic acid (131 mg, 0.56 mmol) as described in Example 3 part g), affording 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-2-trifluoromethyl[1,8]-naphthyridine (82 mg, 49%). δH (360 MHz, CDCl3) 7.39-7.44 (2H, m), 7.55-7.63 (3H, m), 7.79 (1H, dd, J 2.3 and 6.5), 7.85 (1H, d, J 8.4), 8.55-8.60 (2H, m), 9.28 (1H, d, J 4.6). m/z (ES+) 388 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.43 mmol, 100 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 4-fluoro-3-(3-fluoropyridin-2-yl)phenylboronic acid | 0.56 mmol, 131 mg | FC1=C(C=C(C=C1)B(O)O)C1=NC=CC=C1F | C11H8BF2NO2
product | 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-2-trifluoromethyl[1,8]-naphthyridine | 82 mg, 49% | FC1=C(C=C(C=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F)C1=NC=CC=C1F | C20H10F5N3
